US03956314
12 g. of 3-carboxy-4-p-chlorophenyl-5-phenyl-2-pyrrolidinone in 200 ml. of xylene are refluxed until evolution of CO2 ceased (about 20 minutes). The solution is cooled, 200 ml. of hexane are added and the reaction product crystallizes out. 8 g. of 4-p-chlorophenyl-5-phenyl-2-pyrrolidinone are obtained. M.P. : 159°-160°C.

reactant | 3-carboxy-4-p-chlorophenyl-5-phenyl-2-pyrrolidinone | C(=O)(O)C1C(NC(C1C1=CC=C(C=C1)Cl)C1=CC=CC=C1)=O | C17H14ClNO3
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | CO2 | C(=O)=O | CO2
solvent | hexane | CCCCCC | C6H14
product | 4-p-chlorophenyl-5-phenyl-2-pyrrolidinone | ClC1=CC=C(C=C1)C1CC(NC1C1=CC=CC=C1)=O | C16H14ClNO
